US08022062B2
7-Chloro-6-(5-cyclohexylmethylpyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 366 to react 6-(5-bromo-pyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine with cyclohexylmethylzinc bromide. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 401 (M+H)+.

reactant | 6-(5-bromo-pyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | cyclohexylmethylzinc bromide | [Br-].C1(CCCCC1)C[Zn+]
product | 7-Chloro-6-(5-cyclohexylmethylpyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC=C(C=C1)CC1CCCCC1 | InChI=1S/C23H29ClN2S.ClH/c24-22-9-7-19-10-12-25-13-11-21(19)23(22)27-16-20-8-6-18(15-26-20)14-17-4-2-1-3-5-17;/h6-9,15,17,25H,1-5,10-14,16H2;1H
